2127-04-04 07:49:00 Physician Resident Progress Note
Chief Complaint: GI bleed
   24 Hour Events:
   -L subclavian triple lumen catheter placed upon arrival to the floor
   -GI consult
 likely source is diverticular bleed; no plan for emergent
   intervention; transfuse for goal HCT >30; plan for scope [**4-7**]
   -HCT down to 26.0 overnight
 transfused 1 unit PRBC with HCT bump to
   28.5
   -1 medium stool @ 12midnight, 1 small stool @ 1am, both guaiac
   positive, no passage of blood or clots overnight
   This AM: pt denies dizziness (including w/ position changes), chest
   pain, shortness of breath, abdominal pain.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2127-4-3**] 04:18 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-4-4**] 12:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-4-4**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 63 (58 - 75) bpm
   BP: 130/52(69) {80/51(67) - 179/134(138)} mmHg
   RR: 17 (12 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.4 kg (admission): 57.4 kg
           Total In:
                                                                  2,459 mL
                                                                    933 mL
   PO:
           TF:
   IVF:
                                                                    734 mL
                                                                    583 mL
   Blood products:
                                                                    375 mL
                                                                    350 mL
   Total out:
                                                                    600 mL
                                                                    550 mL
   Urine:
                                                                    600 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,859 mL
                                                                    383 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General: good mannered, a&ox1
   HEENT:  pinpoint pupils, MMM, no oral lesions
   Lungs: CTAB, no w/r/c
   Cardiac: nl s1s2, RRR, no m/r/g
   Abd: soft, ntnd, + BS, no HSM
   Extr: no c/c/e, rashes
   Neuro: CNII-XII grossly intact, no focal deficit
   Labs / Radiology
   224 K/uL
   9.6 g/dL
   95 mg/dL
   1.5 mg/dL
   25 mEq/L
   4.3 mEq/L
   31 mg/dL
   109 mEq/L
   140 mEq/L
   28.5 %
   9.4 K/uL
        [image002.jpg]
                             [**2127-4-3**]  04:56 PM
                             [**2127-4-4**]  04:27 AM
   WBC
   10.1
   9.4
   Hct
   26.0
   28.5
   Plt
   243
   224
   Cr
   1.5
   1.5
   Glucose
   96
   95
   Other labs: PT / PTT / INR:14.1/25.3/1.2, ALT / AST:[**8-23**], Alk Phos / T
   Bili:70/0.8, Differential-Neuts:81.0 %, Lymph:10.8 %, Mono:5.7 %,
   Eos:2.3 %, Albumin:3.1 g/dL, LDH:193 IU/L, Ca++:7.7 mg/dL, Mg++:1.7
   mg/dL, PO4:3.7 mg/dL
   Vit-B12:286   Folate:>20.0   Iron: 249  calTIBC: 291   Ferritn: 21
   TRF: 224
   Assessment and Plan
   Mrs. [**Known firstname 11620**] [**Known lastname 11621**] is a 88 YO F with a h/o dementia, diverticulosis, &
   anemia, presenting from her [**Hospital3 59**] facility with GI bleed, now
   resolving.
   .
   #. Low GI bleed: Spontaneously resolving. Likely diverticular bleeding,
   given history of diverticulosis and story of BRB/clots/maroon stools
   for past several days. Less likely PUD, given no abdominal pain, also
   hemodynamic stability in setting of BRB and clots, though this
   diagnosis is possible. HCT drop to 26 in setting of GI bleed, plus CVL
   placement, with adequate response to transfusion.
   - HCT q6hrs, transfuse > 30 hct, type and screen (active), cross 2
   units
   - If active bleeding continues, consider angio vs tagged RBC scan
   - If pt remains stable, plan for scope [**4-7**] (Monday)
   - IV PPI [**Hospital1 **]
   - Continue NPO
   - CVL and PIV for access
   .
   # Anemia: Patient with normocytic, normochromic anemia with normal RDW,
   who has history of PUD and diverticulosis and prior diagnosis of iron
   deficiency anemia on iron replacement therapy. HCT drop in setting of
   acute GI bleed and CVL placement. Iron studies with elevated serum
   iron, normal TIBC, low ferritin, consistent with history. Pt had no
   evidence of CRC on scope 4 yrs ago. Pt's daughter states diet is
   adequate.
   - HCT as above
   - EGD/Colonoscopy, as above
   .
   # Alzheimer Dementia: At baseline per daughter.
   - Continue home medications
   .
   # Hypertension: Pt on metoprolol XL 50 Daily at home.
   - Hold beta-blocker for now until HCT stable.
   .
   # Hypercholesterolemia: Pt on lovastatin.
   - Switch to atorvastatin while in house
   .
   #. H/o Breast cancer - In remision.
   - No BP or blood draws in R arm.
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  None
   Lines:
   18 Gauge - [**2127-4-3**] 03:29 PM
    L subclavian triple lumen catheter
   Prophylaxis:
   DVT: Boots; hold SQH for GI bleed
   Stress ulcer: PPI, as above
   Communication:  Pt and daughter
   [**Name (NI) 129**] status: DNR/DNI
   Disposition: c/o to floor today if HCT stable

2127-04-05 08:01:00 Physician Resident Progress Note
Chief Complaint:  GI Bleed
   24 Hour Events:
   [**Name8 (MD) **] RN, ~8 episodes of melena overnight.
   HCT 30
 26, getting 1 u RBCs now.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2127-4-3**] 04:18 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-4-4**] 07:47 PM
   Other medications:
   Flowsheet Data as of  [**2127-4-5**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (97
   HR: 58 (55 - 81) bpm
   BP: 131/62(80) {128/45(74) - 181/76(100)} mmHg
   RR: 15 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 57.4 kg (admission): 57.4 kg
             Total In:
                                                                  2,946 mL
                                                                    599 mL
   PO:
                                                                    400 mL
             TF:
   IVF:
                                                                  1,846 mL
                                                                    599 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  1,810 mL
                                                                    600 mL
   Urine:
                                                                  1,810 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,136 mL
                                                                     -1 mL
   Respiratory support
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General: NAD, comfortable, A&Ox1
   HEENT:  pinpoint pupils, MMM, no oral lesions
   Lungs: CTAB, no w/r/c
   Cardiac: nl s1s2, RRR, no m/r/g
   Abd: soft, ntnd, + BS, no HSM
   Extr: no c/c/e, rashes
   Labs / Radiology
   202 K/uL
   9.0 g/dL
   98 mg/dL
   1.3 mg/dL
   23 mEq/L
   3.8 mEq/L
   21 mg/dL
   111 mEq/L
   140 mEq/L
   26.0 %
   9.1 K/uL
        [image002.jpg]
                             [**2127-4-3**]  04:56 PM
                             [**2127-4-4**]  04:27 AM
                             [**2127-4-4**]  12:07 PM
                             [**2127-4-4**]  04:15 PM
                             [**2127-4-4**]  11:15 PM
                             [**2127-4-5**]  06:15 AM
   WBC
   10.1
   9.4
   9.1
   Hct
   26.0
   28.5
   27.0
   29.4
   30.1
   26.0
   Plt
   243
   224
   202
   Cr
   1.5
   1.5
   1.3
   1.3
   Glucose
   96
   95
   113
   98
   Other labs: PT / PTT / INR:13.7/26.1/1.2, ALT / AST:[**8-23**], Alk Phos / T
   Bili:70/0.8, Differential-Neuts:81.0 %, Lymph:10.8 %, Mono:5.7 %,
   Eos:2.3 %, Albumin:3.1 g/dL, LDH:193 IU/L, Ca++:7.6 mg/dL, Mg++:1.5
   mg/dL, PO4:3.5 mg/dL
   Imaging: none.
   Microbiology: None.
   Assessment and Plan
   Mrs. [**Known firstname 11620**] [**Known lastname 11621**] is a 88 YO F with a h/o dementia, diverticulosis, &
   anemia, presenting from her [**Hospital3 59**] facility with GI bleed.
   .
   #. Low GI bleed: Spontaneously resolving. Likely diverticular bleeding,
   given history of diverticulosis and story of BRB/clots/maroon stools
   for past several days. Less likely PUD, given no abdominal pain, also
   hemodynamic stability in setting of BRB and clots, though this
   diagnosis is also possible. HCT drop to 26 (?BL) in setting of GI
   bleed, plus CVL placement.  Minimal response to transfusion of 4 units
   RBCs total in setting of ~8 episodes of melena overnight.
   - HCT q6hrs, transfuse > 30 hct, type and screen (active), cross 2
   units
   - As pt continued to have active bleeding, tagged RBC scan ordered but
   unable to be completed as no tracer in hospital.
   - If pt remains stable, plan for scope [**4-7**] (Monday)
   - IV PPI [**Hospital1 **]
   - Started on clears yesterday, per GI
   - CVL and PIV for access
   .
   # Anemia: Patient with normocytic, normochromic anemia with normal RDW,
   who has history of PUD and diverticulosis and prior diagnosis of iron
   deficiency anemia on iron replacement therapy. HCT drop in setting of
   acute GI bleed and CVL placement. Iron studies with elevated serum
   iron, normal TIBC, low ferritin, consistent with history. Pt had no
   evidence of CRC on scope 4 yrs ago. Pt's daughter states diet is
   adequate.
   - HCTs as above
   - EGD/Colonoscopy, as above
   .
   # Alzheimer Dementia: At baseline per daughter.
   - Continue home medications
   .
   # Hypertension: Pt on metoprolol XL 50 Daily at home.
   - resumed home BB [**4-4**] in short-acting formulation given persistent
   hypertension
   .
   # Hypercholesterolemia: Pt on lovastatin.
   - Switch to atorvastatin while in house
   .
   #. H/o Breast cancer - In remision.
   - No BP or blood draws in R arm.
   ICU Care
   Nutrition: Clears
   Glycemic Control:  None
   Lines:
   18 Gauge - [**2127-4-3**] 03:29 PM
    L subclavian triple lumen catheter
   Prophylaxis:
   DVT: Boots; hold SQH for GI bleed
   Stress ulcer: Pantoprazole 40 mg IV Q12H
   Communication:  Pt and daughter
   [**Name (NI) 129**] status: DNR/DNI
   Disposition: ?c/o to floor today if HCT stable
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   I have seen and examined the patient and concur with Dr [**Last Name (STitle) 11429**]
   assessment above.
   Mrs [**Known lastname 11621**] has had worsening hematochezia overnight and further need
   for pRBC
s support.
   She has remained hemodynamically stable with HR of 55 and no pain.
   GI staff to decide today regarding EGD/ colonoscopy but suspect she
   will need nuclear scan to assess site of bleed and possibly angiography
   if she continues to need pRBC
s. Surgical consult to be obtained too.
   She has left sided CVL for rescucitation.
   [**First Name8 (NamePattern2) 1706**] [**Doctor Last Name 1707**], M.D
   Pulmonary, Critical Care, Sleep Medicine,
   CC time: 35 mins
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2127-4-5**] 01:35 PM ------

2127-04-06 07:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Hct 27, given another unit of PRBCs --> 29.4  --> 31 --> 30.1 --> 26
   --> 29.5.
   - started clears per GI
   - Plan per GI is to follow Hcts and consider EGD in the AM if still
   bleeding.
   - resumed home BB in short-acting formulation given persistent
   hypertension
   - Tagged red cell scan showed blood coming from sigmoid that pools in
   rectum but very slowly bleeding, pt went for angio study. Despite 4
   hours of evaluating for active bleed, none was found during angio.
   Aortic, SMA, and [**Female First Name (un) **] arteriograms were negative; hemostasis achieved
   with digital compression.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2127-4-3**] 04:18 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-4-6**] 12:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-4-6**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.2
C (97.1
   HR: 53 (53 - 67) bpm
   BP: 114/42(57) {93/42(53) - 166/66(88)} mmHg
   RR: 16 (12 - 1,712) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 57.4 kg (admission): 57.4 kg
             Total In:
                                                                  2,212 mL
                                                                    506 mL
   PO:
             TF:
   IVF:
                                                                  1,487 mL
                                                                    506 mL
   Blood products:
                                                                    725 mL
   Total out:
                                                                  1,433 mL
                                                                    420 mL
   Urine:
                                                                  1,433 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    779 mL
                                                                     86 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   General: NAD, comfortable, A&Ox1
   HEENT:  pinpoint pupils, MMM, no oral lesions
   Lungs: CTAB, no w/r/c
   Cardiac: nl s1s2, RRR, no m/r/g
   Abd: soft, ntnd, + BS, no HSM
   Extr: no c/c/e, rashes
   Labs / Radiology
   165 K/uL
   10.1 g/dL
   101 mg/dL
   1.4 mg/dL
   29 mEq/L
   3.7 mEq/L
   20 mg/dL
   107 mEq/L
   140 mEq/L
   28.7 %
   8.8 K/uL
        [image002.jpg]
                             [**2127-4-3**]  04:56 PM
                             [**2127-4-4**]  04:27 AM
                             [**2127-4-4**]  12:07 PM
                             [**2127-4-4**]  04:15 PM
                             [**2127-4-4**]  11:15 PM
                             [**2127-4-5**]  06:15 AM
                             [**2127-4-5**]  11:36 AM
                             [**2127-4-5**]  05:48 PM
                             [**2127-4-6**]  12:53 AM
                             [**2127-4-6**]  05:33 AM
   WBC
   10.1
   9.4
   9.1
   8.8
   Hct
   26.0
   28.5
   27.0
   29.4
   30.1
   26.0
   29.5
   30.9
   29.2
   28.7
   Plt
   243
   224
   202
   165
   Cr
   1.5
   1.5
   1.3
   1.3
   1.3
   1.4
   Glucose
   96
   95
   113
   98
   91
   101
   Other labs: PT / PTT / INR:13.7/26.1/1.2, ALT / AST:[**8-23**], Alk Phos / T
   Bili:70/0.8, Differential-Neuts:81.0 %, Lymph:10.8 %, Mono:5.7 %,
   Eos:2.3 %, Albumin:3.1 g/dL, LDH:193 IU/L, Ca++:7.6 mg/dL, Mg++:2.0
   mg/dL, PO4:3.4 mg/dL
   Imaging: Angio report and tagged RBC scan report pending.
   Microbiology: None.
   Assessment and Plan
   Mrs. [**Known firstname 11620**] [**Known lastname 11621**] is a 88 YO F with a h/o dementia, diverticulosis, &
   anemia, who presented from her [**Hospital3 59**] facility with GI bleed.
   .
   #. Lower GI bleed: Resolving. Likely diverticular bleed, given history
   of diverticulosis and story of BRB/clots/maroon stools for past several
   days. Less likely PUD, given no abdominal pain, also hemodynamic
   stability in setting of BRB and clots, though this diagnosis is also
   possible. HCT drop to 26 (?BL) in setting of GI bleed, plus CVL
   placement.  Patient has had response to transfusion of 6 units RBCs
   despite ongoing maroon stools (have decreased overnigh) with today
   HCT 28.7.
   - As pt continued to have active bleeding, tagged RBC scan ordered
   which showed bleeding in sigmoid colon.  Angio done and no bleed found
   through SMA, [**Female First Name (un) **], abdominal aorta.
   - ? if GI plans to scope tomorrow
   - HCT q6hrs, transfuse > 30 hct, type and screen (active), cross 2
   units
   - Continue IV PPI [**Hospital1 **]
   - Started on clears yesterday, per GI
   - CVL and PIV for access
   - As stool output has decreased, and pt
s HCT and HDs have been stable,
   could c/o to floor later today.
   .
   # Anemia: Patient with normocytic, normochromic anemia with normal RDW,
   who has history of PUD and diverticulosis and prior diagnosis of iron
   deficiency anemia on iron replacement therapy. HCT drop in setting of
   acute GI bleed and CVL placement. Iron studies with elevated serum
   iron, normal TIBC, low ferritin, consistent with history. Pt had no
   evidence of CRC on scope 4 yrs ago. Pt's daughter states diet is
   adequate.
   - HCTs as above
   - EGD/Colonoscopy, per GI recs.
   .
   # Alzheimer Dementia: At baseline per daughter.
   - Continue home medications
   .
   # Hypertension: Pt on metoprolol XL 50 Daily at home.
   - resumed home BB [**4-4**] in short-acting formulation given persistent
   hypertension.
   .
   # Hypercholesterolemia: Pt on lovastatin.
   - Switch to atorvastatin while in house
   .
   #. H/o Breast cancer - In remision.
   - No BP or blood draws in R arm.
   ICU Care
   Nutrition: Clears
   Lines: 18 Gauge - [**2127-4-3**] 03:29 PM   L subclavian triple lumen
   catheter
   Prophylaxis: DVT: Boots; hold SQH for GI bleed  Stress ulcer:
   Pantoprazole 40 mg IV Q12H
   Communication:  Pt and daughter
   [**Name (NI) 129**] status: DNR/DNI
   Disposition: ?c/o to floor today if HCT stable
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   I saw and examined the patient, and was physically present with the ICU
   resident for the key portions of the services provided. I agree with
   the note above, including the assessment and plan.  To that I would add
   the following:
   She has needed a total of 6 units pRBC
s so far. Area of bleeding in
   sigmoid colon appears to have stopped. Results of angiogram noted. She
   remains hemodynamically stable at this time but NPO.
   We will advance diet today and assess if bleeding recurs. If this
   should be the casem GI staff will opine regarding need for flex sig for
   therapeutic reasons. If not repeat attempts at therapeutic angiography
   or have surgical colleagues opine.
   If she remains stable, will transfer to Medical floor today.
   [**First Name8 (NamePattern2) 1706**] [**Name8 (MD) 1707**], M.D.
   Pulmonary, Critical Care and Sleep Medicine,
   Time spent: 25 mins
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2127-4-6**] 12:32 ------